US05013733
1-Methyl-1H-indole-2-acetic acid
A mixture of ethyl 1-methyl-1H-indole-2-acetate (5.0 g) and 2N sodium hydroxide (50 ml) was heated to reflux for 4 h. After cooling, the reaction mixture was extracted with ethyl acetate (2x50 ml) and theresulting aqueous solution was made acidic (pH 1) by addition of 2N hydrochloric acid. The resulting solid was filtered off, washed with ether (100 ml) and dried in vacuo to give the title compound (2.1 g), m.p. 146-148°.

reactant | ethyl 1-methyl-1H-indole-2-acetate | 5.0 g | CN1C(=CC2=CC=CC=C12)CC(=O)OCC | C13H15NO2
solvent | sodium hydroxide | 2N, 50 ml | [OH-].[Na+]
product | 1-Methyl-1H-indole-2-acetic acid | 2.1 g | CN1C(=CC2=CC=CC=C12)CC(=O)O | C11H11NO2
